* LTspice-only CHAN reference fixture for magnetics_external/ja_vs_ltspice_chan_se.
* This is not an ngspice fixture. Run it in LTspice and export V(out) as CSV,
* then import with:
*   cargo run -p pedalkernel-validate -- --config pedalkernel-validate/ltspice-chan.yaml \
*     --golden pedalkernel-validate/golden import-csv-golden exported.csv \
*     --suite magnetics_external --test ja_vs_ltspice_chan_se --signal sine \
*     --column V(out) --duration 0.1

.param Np=2000 Ns={Np/26}
.param Lw=1u Rwp=270 Rws=0.5 Rload=8
.param Bs=0.4 Br=0.1 Hc=20
.param Ae=2e-4 Le=0.10 Lg=1e-3
.param Rp=100k Cp=200p

Vin in 0 SINE(0 2 100 0 0 0)

* Ideal winding wrapper. Node c carries core volts-per-turn and ampere-turns.
.subckt Winding s f c params: n=100 L=1u Rs=1m Rp=1G
Lw s 1 {L} Rser={Rs} Rpar={Rp}
Ew 1 f c 0 {n}
Fw 0 c Ew {n}
.ends Winding

* LTspice CHAN inductor wrapped as the shared magnetic core.
.subckt Core_Chan c params: Bs=0.4 Br=0.1 Hc=20 A=2e-4 Lm=0.10 Lg=1e-3 Rp=100k Cp=200p
Lc c 0 Rser=0 n=1 Bs={Bs} Br={Br} Hc={Hc} A={A} Lm={Lm} Lg={Lg} Rpar={Rp} Cpar={Cp}
.ends Core_Chan

Xp in 0 core Winding n={Np} L={Lw} Rs={Rwp} Rp=1G
Xs out 0 core Winding n={Ns} L={Lw} Rs={Rws} Rp=1G
Rload out 0 {Rload}
Xc core Core_Chan Bs={Bs} Br={Br} Hc={Hc} A={Ae} Lm={Le} Lg={Lg} Rp={Rp} Cp={Cp}

.tran 0 0.1 0 2.6041666666666667u
.save V(out)
.end
